US07470710B2
Description 25: 5-(4-Fluoro-phenyl)-2-methyl-2H-[1,2,3]triazole-4-carboxylic acid
5-(4-Fluoro-phenyl)-2-methyl-2H-[1,2,3]triazole-4-carboxylic acid methyl ester D24 (940 mg, 4 mmol) in water (65 ml) was treated with 2N sodium hydroxide (4 ml) and the mixture was heated at 120° C. for 2 h. The volume of water was reduced to 20 ml in vacuo and the ice-cooled residue was treated with 2N HCl (4 ml). Filtration, washing with water and drying in vacuo afforded the title compound as a white solid (810 mg, 91%).

reactant | 5-(4-Fluoro-phenyl)-2-methyl-2H-[1,2,3]triazole-4-carboxylic acid methyl ester | COC(=O)C1=NN(N=C1C1=CC=C(C=C1)F)C | C11H10FN3O2
reactant | sodium hydroxide | 2N, 4 ml | [OH-].[Na+]
reactant | HCl | 2N, 4 ml | Cl | ClH
solvent | water | 65 ml | O | H2O
product | 5-(4-Fluoro-phenyl)-2-methyl-2H-[1,2,3]triazole-4-carboxylic acid | 810 mg, 91% | FC1=CC=C(C=C1)C=1C(=NN(N1)C)C(=O)O | C10H8FN3O2
